US07666879B2
2-[4-(7-Pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-N-(3-trifluoromethyl-phenyl)-thioacetamide
Add Lawesson's reagent (0.246 g, 0.61 mmol, 1.2 eq.) to the solution of 2-[4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-N-(3-trifluoromethyl-phenyl)-acetamide (0.240 g, 0.51 mmol, 1.0 eq.) in hexamethylphosphoramide (2.5 mL). Stir the reaction mixture at 80° C. overnight. Cool the mixture down to room temperature and load onto a Varian MegaElut® SCX cartridge (5 gram cartridge prewashed with methanol). Rinse with methanol to remove impurities then elute crude product with 2 M NH3 in methanol. Concentrate this solution in vacuo then purify HPLC to give a yellow foam (0.078 g, 31%). MS (ES), m/z 489 (M+1).

reactant | Lawesson's reagent | 0.61 mmol, 0.246 g, 1.2 eq. | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 2-[4-(7-pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-N-(3-trifluoromethyl-phenyl)-acetamide | 0.51 mmol, 0.240 g, 1.0 eq. | N1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)CC(=O)NC2=CC(=CC=C2)C(F)(F)F | C27H19F3N4O
reactant | methanol | CO | CH4O
solvent | hexamethylphosphoramide | 2.5 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-[4-(7-Pyridin-4-yl-imidazo[1,2-a]pyridin-3-yl)-phenyl]-N-(3-trifluoromethyl-phenyl)-thioacetamide | 0.078 g, 31% | N1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)CC(=S)NC2=CC(=CC=C2)C(F)(F)F | C27H19F3N4S
